US07091228B2
N-(4-Bromo-2-fluorophenyl)-N-[5-(trifluoromethyl)-1H-benzimidazol-2-yl]amine
1,2-Diamino-5-trifluoromethylbenzene (0.50 g, 2.84 mmol) was diluted in dichloromethane (5 mL) and treated with 4-bromo-2-fluoro-phenylisothiocyanate (0.66 g, 2.84 mmol). The dark solution was stirred at 45° C. for 15 minutes, then 1,3-dicyclohexylcarbodiimide (0.44 g, 2.13 mmol) was added all at once. The reaction was heated in a 45° C. oil bath overnight, then cooled and concentrated at reduced pressure. The dark residue was diluted with ethyl acetate, and the organic layer was washed with water. The organic layer was dried (MgSO4) and concentrated in vacuo. The resulting dark brown oil was purified by flash chromatography on silica gel eluted on a gradient from 9:1 hexanes/ethyl acetate to 100% ethyl acetate. The title compound was collected as a light pink solid (0.60 g, 57%). 1H NMR (300 MHz, DMSO-d6) δ 11.3 (broad d, 1H), 9.87 (d, 1H), 7.50 (d, 2H), 7.61 (d, 1H), 7.55–7.41 (m, 3H), 7.35–7.30 (m, 1H); LC/MS m/z 356.2 (MH+), retention time 2.33 minutes.

reactant | 1,2-Diamino-5-trifluoromethylbenzene | 2.84 mmol, 0.50 g | NC1=C(C=CC(=C1)C(F)(F)F)N | C7H7F3N2
reactant | 4-bromo-2-fluoro-phenylisothiocyanate | 2.84 mmol, 0.66 g | BrC1=CC(=C(C=C1)N=C=S)F | C7H3BrFNS
reactant | 1,3-dicyclohexylcarbodiimide | 2.13 mmol, 0.44 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(4-Bromo-2-fluorophenyl)-N-[5-(trifluoromethyl)-1H-benzimidazol-2-yl]amine | BrC1=CC(=C(C=C1)NC1=NC2=C(N1)C=CC(=C2)C(F)(F)F)F | C14H8BrF4N3
